US04839350
7-Amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (0.229 g) as prepared in Reference Example 1 above was dissolved in methylene chloride (5 ml). The resultant solution was admixed with 2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid (syn-isomer) (0.235 g) and methylene chloride (5 ml). To the mixture obtained were further added pyridine (0.07 ml) and then dropwise phosphorus oxychloride (0.07 ml) at -20° C. The reaction mixture was stirred for 10 minutes at 0° C. and poured into a mixture of ice-water (50 ml) and ethyl acetate (50 ml). After stirring, the organic phase was separated from the aqueous phase and washed with ice-wated and then with ice-cooled aqueous saturated sodium hydrogen carbonate solution. The organic phase was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified chromatographically on a column of silica gel (Wako gel C-300) (20 g ) as developed with benzene-ethyl acetate (5:1) as the development solvent. 7-[2-Methoxyimino-2(2-tritylaminothiazol-4yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid (syn-isomer) pivaloyloxymethyl ester (0.184 g) was obtained.

reactant | 7-Amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 0.229 g | C(C(C)(C)C)(=O)OCOC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C=CC2=C(N=CS2)C | C19H23N3O5S2
reactant | 2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid | 0.235 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | pyridine | 0.07 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 0.07 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-Methoxyimino-2(2-tritylaminothiazol-4yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)O)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H32N6O5S3
